US05610177
b) Bis-(3,4-methylenedioxyphenylmethyl)acetic acid
A solution of 20.58 g (0.051 mol) of dimethyl bis-(3,4-methylenedioxyphenylmethyl)malonate in 50 mL of n-butanol was treated with a solution of 8.58 g (0.153 mol) of KOH in 50 mL H2O and heated at reflux overnight. The solvent was removed under reduced pressure and the residue mixed with H2O and acidified to pH 2 with dilute HCl. The mixture was extracted with EtOAc and the EtOAc washed with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 9.24 g (55% yield) of the product as a solid, mp 191°-193° C. The structure was confirmed by NMR spectroscopy.

reactant | dimethyl bis-(3,4-methylenedioxyphenylmethyl)malonate | 0.051 mol, 20.58 g | C1OC=2C=C(C=CC2O1)CC(C(=O)OC)(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C21H20O8
reactant | KOH | 0.153 mol, 8.58 g | [OH-].[K+]
solvent | n-butanol | 50 mL | C(CCC)O | C4H10O
solvent | H2O | 50 mL | O | H2O
product | Bis-(3,4-methylenedioxyphenylmethyl)acetic acid | 9.24 g, 55% yield | C1OC=2C=C(C=CC2O1)CC(C(=O)O)CC1=CC2=C(C=C1)OCO2 | C18H16O6
